US09358222B2
Distilled THF (20 mL) was added to 3-(4-fluorophenyl)-3-hydroxy-2-propyl-2,3-dihydroisoindol-1-one (200 mg, 0.7 mmol) followed by thionyl chloride (0.06 mL, 0.84 mmol) and a catalytic amount of DMF (3 drops). The mixture was stirred at room temperature under nitrogen for 4 h and monitored by TLC. Removal of the solvent under vacuum gave 3-chloro-3-(4-fluorophenyl)-2-propyl-2,3-dihydroisoindol-1-one as a colourless oil (212 mg, 0.69 mmol, 100%) which was used immediately without further purification.

reactant | 3-(4-fluorophenyl)-3-hydroxy-2-propyl-2,3-dihydroisoindol-1-one | 0.7 mmol, 200 mg | FC1=CC=C(C=C1)C1(N(C(C2=CC=CC=C12)=O)CCC)O | C17H16FNO2
reactant | thionyl chloride | 0.84 mmol, 0.06 mL | S(=O)(Cl)Cl | Cl2OS
catalyst | DMF | 3 drops | CN(C)C=O | C3H7NO
product | 3-chloro-3-(4-fluorophenyl)-2-propyl-2,3-dihydroisoindol-1-one | 0.69 mmol, 212 mg, 100% | ClC1(N(C(C2=CC=CC=C12)=O)CCC)C1=CC=C(C=C1)F | C17H15ClFNO
